US04727080
Preparation of ethyl 6-fluoro-7-(pyrrol-1-yl)-1-formylmethylamino-4-oxo-1,4-dihydroquinoline-3-carboxylate (step D-3)
A mixture of 3.47 g (0.01 mol) of ethyl 6-fluoro-7-(pyrrol-1-yl)-1-formylamino-4-oxo-1,4-dihydroquinoline-3-carboxylate and 3 g (~0.02 mol) of potassium carbonate in 25 ml of dimethylformamide is heated for 10 minutes at 35° C. It is kept at room temperature for 2 hours in a partially precipitated state, 4.3 g (0.03 mol) of methyl iodide are added to this suspension and the mixture is kept at room temperature for 3 hours. It is poured into a water/ice mixture, the precipitate formed is filtered off, washed with water and extracted with chloroform, the mixture is filtered, the solution is evaporated and the residue is recrystallized from an ethanol/water mixture (1:1) to give 1.43 g of a solid melting at 194°-198° C.

reactant | ethyl 6-fluoro-7-(pyrrol-1-yl)-1-formylamino-4-oxo-1,4-dihydroquinoline-3-carboxylate | 0.01 mol, 3.47 g | FC=1C=C2C(C(=CN(C2=CC1N1C=CC=C1)NC=O)C(=O)OCC)=O | C17H14FN3O4
reactant | potassium carbonate | ~0.02 mol, 3 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.03 mol, 4.3 g | CI | CH3I
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | ethyl 6-fluoro-7-(pyrrol-1-yl)-1-formylmethylamino-4-oxo-1,4-dihydroquinoline-3-carboxylate | 1.43 g | FC=1C=C2C(C(=CN(C2=CC1N1C=CC=C1)NCC=O)C(=O)OCC)=O | C18H16FN3O4
